US07759369B2
Ethyl 6-({5-chloro-2-[(cyclopentylmethyl)oxy]phenyl}methyl)-2-pyridinecarboxylate
A mixture of ethyl 6-[(5-chloro-2-hydroxyphenyl)methyl]-2-pyridinecarboxylate (128 mg, 0.44 mmol), triphenylphosphine (115 mg, 0.44 mmol), diisopropylazodicarboxylate (86 μl, 0.44 mmol) and cyclopentanemethanol (43 μl, 0.4 mmol) in THF (5 ml) was stirred at room temperature for 6 hours. Further aliquots of triphenylphosphine (58 mg, 0.22 mmol), diisopropylazodicarboxylate (43 μl) and cyclopentanemethanol (22 μl, 0.2 mmol) were added and the reaction stirred for a further 18 hours. The solvent was removed in vacuum and the residue purified by flash chromatography using 15% ethyl acetate in isohexane to yield the title compound as a clear oil (164 mg). Rt=4.13 [MH+] 374, 376.

reactant | ethyl 6-[(5-chloro-2-hydroxyphenyl)methyl]-2-pyridinecarboxylate | 0.44 mmol, 128 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)OCC)O | C15H14ClNO3
reactant | triphenylphosphine | 0.44 mmol, 115 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.44 mmol, 86 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | cyclopentanemethanol | 0.4 mmol, 43 μl | C1(CCCC1)CO | C6H12O
reactant | triphenylphosphine | 0.22 mmol, 58 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 43 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | cyclopentanemethanol | 0.2 mmol, 22 μl | C1(CCCC1)CO | C6H12O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Ethyl 6-({5-chloro-2-[(cyclopentylmethyl)oxy]phenyl}methyl)-2-pyridinecarboxylate | 164 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C(=O)OCC)OCC1CCCC1 | C21H24ClNO3
